US06465505B1
Synthesis of 4-(2,6-dimethylbenzylamino)-1,2-dimethylbenzimidazole
4-(2,6-dimethylbenzylamino)-2-methylbenzimidazole (0.2 g 0.75 mmol) was dissolved in acetonitrile (15 ml). To the solution were added methyl iodide (0.05 ml 0.82 mmol) and potassium carbonate (0.2 g 1.4 mmol) and the reaction mixture was stirred at ambient temperature for 20 h. The solids were removed by filtration and was washed with methylene chloride. Vacuum evaporation of the solvent gave an oily residue which was subjected to flash chromatography on silica gel, methylene chloride: methanol (10:1). Crystallization from acetonitrile gave 0.018 g (9%) of the title compound.

reactant | 4-(2,6-dimethylbenzylamino)-2-methylbenzimidazole | 0.75 mmol, 0.2 g | CC1=C(CNC2=CC=CC=3N=C(NC32)C)C(=CC=C1)C | C17H19N3
reactant | methyl iodide | 0.82 mmol, 0.05 ml | CI | CH3I
reactant | potassium carbonate | 1.4 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-(2,6-dimethylbenzylamino)-1,2-dimethylbenzimidazole | 0.018 g, 9% | CC1=C(CNC2=CC=CC=3N(C(=NC32)C)C)C(=CC=C1)C | C18H21N3
